US06482951B2
To a stirred solution of triphenylphosphine (24.59 g; 92.8 mmol) and imidazole (6.40 g; 93.1 mmol) in methylene chloride (100 mL) cooled to 0° C. and Iodine (23.52 g; 92.7 mmol) was added portionwise over a 10 minute period. A solution of cycloheptane methanol (9.14 g; 71.3 mmol) dissolved in methylene chloride (50 mL) was then added over a 5 minute period. The cooling bath was removed and the mixture allowed to warm to room temperature and stirred overnight. The mixture was diluted with methylene chloride, washed with water and the organic layer dried (magnesium sulfate), filtered and concentrated in vacuo. The crude product was chromatographed (eluent:hexanes) to give 15.35 g (93%) of cycloheptylmethyl iodide as an oil.

reactant | triphenylphosphine | 92.8 mmol, 24.59 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 93.1 mmol, 6.40 g | N1C=NC=C1 | C3H4N2
reactant | Iodine | 92.7 mmol, 23.52 g | II | I2
reactant | cycloheptane methanol | 71.3 mmol, 9.14 g | C1(CCCCCC1)CO | C8H16O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | cycloheptylmethyl iodide | 15.35 g, 93% | C1(CCCCCC1)CI | C8H15I
